US04771050
(S)-Methyl 2-[(S)-3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazin-4-yl]acetoxypropionate (1.1 g) was hydrolyzed and worked up in the manner same as that used in Example 22 to yield (S)-(-)-3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetic acid (0.53 g), mp 109°-110° C. [α]D23 -105° MeOH).

reactant | (S)-Methyl 2-[(S)-3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazin-4-yl]acetoxypropionate | 1.1 g | C(C)(C)[C@@H]1OC2=C(N(C1=S)CC(=O)O[C@H](C(=O)OC)C)C=CC=C2C(C)C | C20H27NO5S
solvent | MeOH | CO | CH4O
product | (S)-(-)-3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetic acid | 0.53 g | C(C)(C)[C@@H]1OC2=C(N(C1=S)CC(=O)O)C=CC=C2C(C)C | C16H21NO3S
